### PR TITLE
[Merged by Bors] - feat: prove case 1 of FLT in the case n=3

### PR DESCRIPTION
**Pull request by riccardobrasca**
We prove the so called case 1 of Fermat Last Theorem for exponent `n = 3`: if `a b c : ℕ` are such that `¬ 3 ∣ a * b * c` then `a ^ 3 + b ^ 3 ≠ c ^ 3`.

From flt-regular

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 1]
```diff
@@ -0,0 +1,68 @@
...
+  replace ha := cube_mem_of_mem ha
+  replace hb := cube_mem_of_mem hb
+  replace hc := cube_mem_of_mem hc
+  simp only [Finset.mem_insert, Finset.mem_singleton] at ha hb hc
+  rcases ha with (ha | ha) <;> rcases hb with (hb | hb) <;> rcases hc with (hc | hc)
+  all_goals simp only [ha, hb, hc]; decide
+
+/--If `a b c : ℕ` are such that `¬ 3 ∣ a * b * c` then `a ^ 3 + b ^ 3 ≠ c ^ 3`. -/
+theorem fermatLastTheoremThree_case_1 :
+    ∀ a b c : ℕ, ¬ 3 ∣ a * b * c → a ^ 3 + b ^ 3 ≠ c ^ 3 := by
```
Comment (adomani) [inline Mathlib/NumberTheory/FLT/Three.lean:59]: Why did you put the quantification right of the `:`?

Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean:59]: I just copied the statement in [FermatLastTheorem](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/FLT/Basic.html#FermatLastTheorem), but it's probably better to follow the usual style.

**Comment by kbuzzard** [comment]
LGTM!

maintainer-merge

**Comment by adomani** [comment]
Maybe

maintainer merge

with no dash?

**Comment by kbuzzard** [comment]
Actually I just golfed it a bit more :P

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 2]
```diff
@@ -0,0 +1,42 @@
...
+Prove case 2.
+-/
+
+open ZMod
+
+private lemma three_dvd_nine : 3 ∣ 9 := by norm_num
+
+private lemma cube_of_castHom_ne_zero {n : ZMod 9} (h : castHom three_dvd_nine (ZMod 3) n ≠ 0) :
+    n ^ 3 = 1 ∨ n ^ 3 = 8 := by
+  revert h; fin_cases n <;> decide
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/FLT/Three.lean:26]:
```suggestion
private lemma cube_of_castHom_ne_zero {n : ZMod 9} :
    castHom (show 3 ∣ 9 by norm_num) (ZMod 3) n ≠ 0 → n ^ 3 = 1 ∨ n ^ 3 = 8 := by
  fin_cases n <;> decide
```

We don't even need to make the first lemma.

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 3]
```diff
@@ -0,0 +1,42 @@
+/-
+Copyright (c) 2024 Riccardo Brasca. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Riccardo Brasca
+-/
+import Mathlib.Data.ZMod.Basic
+
+/-!
+# Fermat Last Theorem in the case `n = 3`
+The goal of this file is to prove Fermats Last theorem in the case `n = 3`.
```
Comment (adomani) [inline Mathlib/NumberTheory/FLT/Three.lean:10]:
```suggestion
The goal of this file is to prove Fermat Last theorem in the case `n = 3`.
```
If we are still making suggestions to this PR... I'm happy with a different choice for Fermat's Last Theorem, but I prefer consistency, over the exact form.

**Comment by riccardobrasca** [comment]
If this still looks OK can someone re maintainer merge? It seems it was ignored by the bot.

**Comment by adomani** [comment]
maintainer merge

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 4]
```diff
@@ -0,0 +1,40 @@
...
+  fin_cases n <;> decide
+
+private lemma cube_of_not_dvd {n : ℕ} (h : ¬ 3 ∣ n) :
+    (n : ZMod 9) ^ 3 = 1 ∨ (n : ZMod 9) ^ 3 = 8 := by
+  apply cube_of_castHom_ne_zero
+  rwa [map_natCast, Ne, Fin.nat_cast_eq_zero]
+
+/--If `a b c : ℕ` are such that `¬ 3 ∣ a * b * c`, then `a ^ 3 + b ^ 3 ≠ c ^ 3`. -/
+theorem fermatLastTheoremThree_case_1 {a b c : ℕ} (hdvd : ¬ 3 ∣ a * b * c) :
+    a ^ 3 + b ^ 3 ≠ c ^ 3 := by
```
Comment (jcommelin) [inline Mathlib/NumberTheory/FLT/Three.lean:33]: Can you please restate this using `FermatLastTheoremFor 3` using `Mathlib/NumberTheory/FLT/Basic.lean`?

Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean:33]: Not really, this is only a particular case: `FermatLastTheoremFor 3` is the statement
```lean
  ∀ a b c : α, a ≠ 0 → b ≠ 0 → c ≠ 0 → a ^ n + b ^ n ≠ c ^ n
```
but I cannot write `FermatLastTheoremFor 3 a b c` to specialize to the variable I declared before (and I have to do it since I need to assume `¬ 3 ∣ a * b * c`. Of course at the end I plan to use `FermatLastTheoremFor 3` for the final statement.

**Comment by sgouezel** [comment]
bors r+
Thanks!

File: Mathlib/NumberTheory/FLT/Three.lean (hunk 4 above)
Comment (jcommelin) [reply Mathlib/NumberTheory/FLT/Three.lean:33]: Aah, nifty dependent types (-;
